datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]1([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([C:4]1[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:13])[H:14])[H:15])([H:7])([H:8])[H:9],0.0
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[S:11]([S:12][H:14])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:13])[H:6].[S:11][S:12][H:14],19.6648
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])[C:5]([C:6]([C:7]([C:8]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])[C:5]([H:18])[H:19])([H:9])[H:10].[C:6]([C:7]([C:8]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21],313.624272
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17],-8.7864
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[H:11])([C:4]([O:5][O:6][H:17])([H:15])[H:16])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[H:11])([H:9])[C:4]([H:15])([H:16])[O:5]1.[O:6][H:17],71.9648
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:8])[H:7])([H:5])[H:6],203.342
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[S:11]=[C:12]([C:13]([S:14][H:17])[H:16])[H:15]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:13]([C:12](=[S:11])[H:15])([S:14][H:17])[H:16],43.0952
[C:0]([C:1]([C:2]1[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:2]1([C:1]([H:10])[H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:7])([H:8])[H:9],245.6008
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[S:3][H:10])([H:4])([H:5])[H:6].[S:11]=[C:12]([S:13][H:15])[H:14]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([S:3][H:10])[H:15])([H:4])([H:5])[H:6].[S:11]=[C:12]([S:13])[H:14],-21.7568
[C:0]([C:1](=[N:2][H:7])[H:6])([H:3])([H:4])[H:5].[H:8]>>[C:0]([C:1](=[N:2][H:7])[H:6])([H:4])[H:5].[H:3][H:8],18.4096
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])=[C:7]([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0]1([H:10])([H:11])[C:1]([H:12])=[C:2]([H:13])[C:3]([H:14])([H:15])[C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])[C:7]1([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19],90.6254
[C:0]([H:1])([H:2])([H:3])[H:4].[Cl:5]>>[C:0]([H:2])([H:3])[H:4].[H:1][Cl:5],3.20107
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[S:19]([C:20]([c:21]1[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]1[H:33])[H:28])[H:27]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:20]([S:19][H:27])([c:21]1[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]1[H:33])[H:28],13.8072
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]=[C:14]([C:15]([H:19])([H:20])[H:21])[C:16]([H:22])([H:23])[H:24])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13]=[C:12]([H:17])[H:18])([C:15]([H:19])([H:20])[H:21])[C:16]([H:22])([H:23])[H:24])[H:5],46.7771
[C:0]([c:1]1[c:2]([H:9])[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:7])[H:8].[O:14][H:15]>>[C:0]([c:1]1[c:2]([H:9])[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:7])([H:8])[O:14][H:15],0.0
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])[H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]1([C:8]([H:21])([H:22])[H:23])[H:20])[H:11])([H:9])[H:10],44.0994
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18](=[C:19]([H:21])[H:22])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:18](=[C:19]([H:21])[H:22])[H:20])[H:11])[H:10])([H:8])[H:9],5.23
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[S:11]([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:12])[H:6].[S:11][H:13],51.8816
